US07399759B2
2-Methylisonicotinaldehyde
A solution of N,N-dimethyl-2-(2-methyl-4-pyridyl)ethenamine (6.4 g, 39 mmol) in methanol (25 ml) was added dropwise to a mixture of sodium periodate (25.2 g, 117 mmol) and methanol (25 ml) at room temperature. The mixture was stirred at the same temperature for 1 hr. The precipitates were filtered off, and the filtrate was concentrated. The residue was combined with water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated to give the titled compound (3.7 g, 78%).

reactant | N,N-dimethyl-2-(2-methyl-4-pyridyl)ethenamine | 39 mmol, 6.4 g | CN(C=CC1=CC(=NC=C1)C)C | C10H14N2
reactant | sodium periodate | 117 mmol, 25.2 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 25 ml | CO | CH4O
product | 2-Methylisonicotinaldehyde | 3.7 g, 78% | CC=1C=C(C=O)C=CN1 | C7H7NO
